US04506001
Synthesis of 1,4-bisbenzoylacetylbenzene [Compound (I-32)]
To a solution of 24.0 g (0.2 mol) of acetophenone and 19.4 g (0.1 mol) of dimethyl terephthalate in 150 ml of ether was dropwise added an ether solution of 0.4 mol of lithium diisopropylamide at -20° C. over 2 hours. After the dropwise addition, the mixture was stirred for 1 hour under cooling with ice, then poured into ice-water. After neutralization with an ammonium chloride aqueous solution, it was extracted with ether, and the extract was dried and concentrated. Recrystallization of the residue from methanol gave 9.5 g (28%) of the title compound. m.p. 175°-177° C.

reactant | acetophenone | 0.2 mol, 24.0 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | dimethyl terephthalate | 0.1 mol, 19.4 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | lithium diisopropylamide | 0.4 mol | C(C)(C)[N-]C(C)C.[Li+]
solvent | ether | 150 ml | CCOCC | C4H10O
product | 1,4-bisbenzoylacetylbenzene | 9.5 g, 28% | C(C1=CC=CC=C1)(=O)CC(=O)C1=CC=C(C=C1)C(CC(C1=CC=CC=C1)=O)=O | C24H18O4
